US09388195B2
A) Production of ethyl 2-(diethoxyphosphoryl)hex-5-enoate
Sodium hydride (60% in oil, 65.0 g) was suspended in tetrahydrofuran (800 mL) under a nitrogen atmosphere, and ethyl(diethoxyphosphoryl)acetate (200 g) was added dropwise at room temperature over 30 min. After the completion of the dropwise addition, the mixture was further stirred by a mechanical stirrer for 30 min. 4-Bromobut-1-ene (217 g) was added dropwise to the reaction mixture over 30 min. The reaction mixture was heated under reflux for 5 hr, allowed to cool to room temperature, and quenched by adding 1M aqueous ammonium chloride solution (300 mL). The mixture was concentrated under reduced pressure, to the residue were added water (500 mL) and diethylether (500 mL), and the mixture was partitioned. The aqueous layer was saturated with sodium chloride, and the mixture was extracted with diethylether (500 mL×2). The combined extracts were washed with brine, and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure to give a crude product (241.6 g) of the title compound as a yellow oil. This was used for the next reaction without further purification.

reactant | Sodium hydride | 65.0 g | [H-].[Na+]
reactant | ethyl(diethoxyphosphoryl)acetate | 200 g | C(C)OC(CP(=O)(OCC)OCC)=O | C8H17O5P
reactant | 4-Bromobut-1-ene | 217 g | BrCCC=C | C4H7Br
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
product | ethyl 2-(diethoxyphosphoryl)hex-5-enoate | 241.6 g | C(C)OP(=O)(OCC)C(C(=O)OCC)CCC=C | C12H23O5P
